US07977331B1
A suspension of N-tert-butyl-3-(2-cyclohexen-1-yl)-1H-indole-6-sulfonamide (2.82 g, 8.48 mmol) and 20% palladium hydroxide/carbon (300 mg) in methanol (30 ml) was stirred at room temperature for 4 hr under a hydrogen atmosphere of 1 atm. The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. Hexane was added to the residue. The precipitated solid was collected by filtration and dried in vacuo to give N-tert-butyl-3-cyclohexyl-1H-indole-6-sulfonamide (2.29 g, yield 82.0%).

reactant | N-tert-butyl-3-(2-cyclohexen-1-yl)-1H-indole-6-sulfonamide | 8.48 mmol, 2.82 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=CNC2=C1)C1C=CCCC1 | C18H24N2O2S
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium hydroxide/carbon | 300 mg | [OH-].[OH-].[Pd+2]
product | N-tert-butyl-3-cyclohexyl-1H-indole-6-sulfonamide | 2.29 g, yield 82.0% | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=CNC2=C1)C1CCCCC1 | C18H26N2O2S
